US07807673B2
Step A: [2-(Dimethylamino)ethyl][(3-nitrophenyl)methyl]amine
A solution of 3-nitrobenzaldehyde (127 mg, 0.84 mmol), N,N-dimethylethylenediamine (184 μL, 1.7 mmol), and HOAc (5 drops) in DCM (10 mL) was stirred at rt for 6 h and then heated to 40° C. for 1 hour. The reaction was cooled to 0° C., and sodium cyanoborohydride (360 mg, 1.7 mmol) was added in one portion. The reaction was stirred overnight at rt. After 16 h, the reaction mixture was washed with 4 N NaOH, dried over Na2SO4, and concentrated. The crude product was used in the next reaction without further purification. ES-LC/MS m/z=224 [M+H]+.

reactant | 3-nitrobenzaldehyde | 0.84 mmol, 127 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N,N-dimethylethylenediamine | 1.7 mmol, 184 μL | CN(CCN)C | C4H12N2
reactant | sodium cyanoborohydride | 1.7 mmol, 360 mg | C(#N)[BH3-].[Na+]
catalyst | HOAc | 5 drops | CC(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [2-(Dimethylamino)ethyl][(3-nitrophenyl)methyl]amine | CN(CCNCC1=CC(=CC=C1)[N+](=O)[O-])C | C11H17N3O2
